US06890940B2
To a solution of 5-amino-2-[3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)phenyl]pyridine (melting point: 176.0-177.5° C.)(28.2 g, 85.4 mmol) synthesized by a similar procedure to that described in Reference Example 11 in methylene chloride (550 mL) was added N,N-diisopropylethylamine (18.0 mL, 103 mmol). To the ice-cold stirred solution was added acryloyl chloride (7.00 mL, 86.0 mmol) dropwise over about 10 minutes. A saturated aqueous sodium hydrogencarbonate was added, and the resulting mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. Chloroform-hexane (1:2, 300 mL) was added to the residue and the resulting precipitate was collected by filtration to yield crude 5-acryloylamino-2-[3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)phenyl]pyridine was obtained as colorless needles (melting point: 207.0-209.0° C.)(38.2 g).

reactant | 5-amino-2-[3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)phenyl]pyridine | 85.4 mmol, 28.2 g | NC=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OCC(F)(F)F)OC | C15H15F3N2O3
reactant | N,N-diisopropylethylamine | 103 mmol, 18.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acryloyl chloride | 86.0 mmol, 7.00 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 550 mL | C(Cl)Cl | CH2Cl2
product | 5-acryloylamino-2-[3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)phenyl]pyridine | C(C=C)(=O)NC=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OCC(F)(F)F)OC | C18H17F3N2O4
